US07632850B2
5.1. 3-chloro-4′-fluoro-1,1′-biphenyl-4-carboxylic acid
Under an inert atmosphere, 5 g (21.2 mmol) of 4-bromo-2-chlorobenzoic acid, 2.96 g (23.3 mmol) of 4-fluorophenylboronic acid and 31.8 ml (63.6 mmol) of aqueous sodium carbonate solution (2M) in suspension in 40 ml of toluene are introduced. Subsequently 0.80 g (0.70 mmol) of palladium tetrakis(triphenylphosphine) is added. The reaction mixture is subsequently refluxed overnight.

reactant | 4-bromo-2-chlorobenzoic acid | 21.2 mmol, 5 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | 4-fluorophenylboronic acid | 23.3 mmol, 2.96 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | sodium carbonate | 63.6 mmol, 2M, 31.8 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium tetrakis(triphenylphosphine) | 0.70 mmol, 0.80 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | 3-chloro-4′-fluoro-1,1′-biphenyl-4-carboxylic acid | ClC=1C=C(C=CC1C(=O)O)C1=CC=C(C=C1)F | C13H8ClFO2
